US04565882
2-carbomethoxy-7-[5-(2-n-propyl-3-hydroxy-4-acetylphenoxy)pentoxy]-8-n-propylchromone
Using the procedure of Example 2, 5.25 g (20 mmoles) of 2-carbomethoxy-7-hydroxy-8-propylchromone and 8.24 g (24 mmoles) of 5-(2-n-propyl-3-hydroxy-4-acetylphenoxy)-1-bromopentane gave 7.0 g (66%) of the title compound, mp 86°-87° C. Calc: C, 68.69; H, 6.92; Found: C, 68.80; H, 6.89.

reactant | 2-carbomethoxy-7-hydroxy-8-propylchromone | 20 mmoles, 5.25 g | C(=O)(OC)C=1OC2=C(C(=CC=C2C(C1)=O)O)CCC | C14H14O5
reactant | 5-(2-n-propyl-3-hydroxy-4-acetylphenoxy)-1-bromopentane | 24 mmoles, 8.24 g | C(CC)C1=C(OCCCCCBr)C=CC(=C1O)C(C)=O | C16H23BrO3
product | 2-carbomethoxy-7-[5-(2-n-propyl-3-hydroxy-4-acetylphenoxy)pentoxy]-8-n-propylchromone | 7.0 g, 66% | C(=O)(OC)C=1OC2=C(C(=CC=C2C(C1)=O)OCCCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)CCC | C30H36O8
